US06780858B2
To a dichloromethane solution of 42 mg of N-(3-chloro-phenyl)-hydroxy-7-amino-N-(tetrahydro-pyran-2-yloxy)-benzofuran-2-carboxamidine was 200 μl of pyridine and 200 μl of acetic anhydride. The resulted solution was stirred at room temperature for 20 min. The reaction mixture was concentrated under vacuum. The crude product was purified by flash chromatography on silica gel eluted with 5-10% methanol/dichloromethane to give 43 mg of N-{2-[N-(3-chloro-phenyl)-N-(tetrahydro-pyran-2-yloxy)-carbamimidoyl]-benzofuran-7-yl}-acetamide in 99% yield.

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | N-(3-chloro-phenyl)-hydroxy-7-amino-N-(tetrahydro-pyran-2-yloxy)-benzofuran-2-carboxamidine | 42 mg | ClC=1C=C(C=CC1)N(C(=N)C=1OC2=C(C1O)C=CC=C2N)OC2OCCCC2 | C20H20ClN3O4
reactant | acetic anhydride | 200 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 200 μl | N1=CC=CC=C1 | C5H5N
product | N-{2-[N-(3-chloro-phenyl)-N-(tetrahydro-pyran-2-yloxy)-carbamimidoyl]-benzofuran-7-yl}-acetamide | 43 mg, 99% yield | ClC=1C=C(C=CC1)N(C(=N)C=1OC2=C(C1)C=CC=C2NC(C)=O)OC2OCCCC2 | C22H22ClN3O4
